US06897306B2
Preparation 52: tert-Butyl (3R)-6-cyclohexyl-3-{3-[2-oxo-2-(1-pyrrolidinyl)ethyl]-1,2,4-oxadiazol-5-yl}hexanoate
A solution of (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid (Preparation 1) (500 mg, 1.70 mmol) in dichloromethane (30 ml) was treated with 1,1′-carbonyldiimidazole (272 mg, 1.70 mmol) and the solution was stirred at room temperature for 1 hour. N′-hydroxy-3-oxo-3-(1-pyrrolidinyl)propanimidamide (Patent FR 73-36858 731016) (291 mg, 1.70 mmol) was then added and the mixture was stirred for 17 hours. The solvent was removed under reduced pressure and the residue was heated neat at 110° C. under a nitrogen atmosphere for 2 hours. The crude product was then purified by column chromatography on silica gel eluting with dichloromethane:methanol (99:1) to afford the title compound as a colourless oil (309 mg).

reactant | (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid | 1.70 mmol, 500 mg | C(C)(C)(C)OC(C[C@H](C(=O)O)CCCC1CCCCC1)=O | C17H30O4
reactant | 1,1′-carbonyldiimidazole | 1.70 mmol, 272 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N′-hydroxy-3-oxo-3-(1-pyrrolidinyl)propanimidamide | 1.70 mmol, 291 mg | ON=C(CC(N1CCCC1)=O)N | C7H13N3O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | tert-Butyl (3R)-6-cyclohexyl-3-{3-[2-oxo-2-(1-pyrrolidinyl)ethyl]-1,2,4-oxadiazol-5-yl}hexanoate | 309 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CC(N1CCCC1)=O | C24H39N3O4
